US03937824
Preparation of 1-Chloro-2-(N,N-dimethylcarbamoyloxy)-2-methoxyiminoethane
N-Methoxychloroacetamide (12.3 grams; 0.1 mole), benzene (75 ml) and triethylamine (12 grams; 1.2 mole) are charged into a glass reaction flask equipped with a mechanical stirrer, therometer and reflux condenser. N,N-Dimethylcarbamoyl chloride (11 grams; 0.1 mole) dissolved in benzene (25 ml) is incrementally added to the reaction mixture, with stirring, at room temperature. After the addition is completed the reaction mixture is heated at reflux for a period of about 3 hours. After this time the reaction mixture is distilled to remove benzene and unreacted starting material thereby yielding the desired product 1-chloro-2-(N,N-dimethylcarbamoyloxy)-2-methoxyiminoethane.

reactant | N-Methoxychloroacetamide | 0.1 mole, 12.3 grams | CONC(CCl)=O | C3H6ClNO2
reactant | triethylamine | 1.2 mole, 12 grams | C(C)N(CC)CC | C6H15N
reactant | N,N-Dimethylcarbamoyl chloride | 0.1 mole, 11 grams | CN(C(=O)Cl)C | C3H6ClNO
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
product | 1-chloro-2-(N,N-dimethylcarbamoyloxy)-2-methoxyiminoethane | ClCC(=NOC)OC(N(C)C)=O | C6H11ClN2O3
